US06258824B1
36B. 4-(3-Chloro-phenyl)-6-(hydroxy-di-pyridin-3-yl-methyl)-1H-quinolin-2-one
Following the same procedure as described in example 1F, [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-di-pyridin-3-yl-methanol (300 mg, 0.66 mmol) was treated with HCl in aqueous THF to yield the title compound (290 mg, 100% yield).

reactant | [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-di-pyridin-3-yl-methanol | 0.66 mmol, 300 mg | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1C=NC=CC1)C=1C=NC=CC1)OC | C27H20ClN3O2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3-Chloro-phenyl)-6-(hydroxy-di-pyridin-3-yl-methyl)-1H-quinolin-2-one | 290 mg, 100% yield | ClC=1C=C(C=CC1)C1=CC(NC2=CC=C(C=C12)C(C=1C=NC=CC1)(C=1C=NC=CC1)O)=O | C26H18ClN3O2
